US07943622B2
Step 2. Synthesis of (2-morpholinooxazol-4-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(2-morpholinooxazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (165 mg, 0.277 mmol) in MeOH (1 mL). After stirring overnight, the reaction mixture was concentrated under reduced pressure to give 105.5 mg (85%) of the title compound as a white solid. LC-MS: RT=2.70 min, [M+H]+=374.0.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(2-morpholinooxazole-4-carbonyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.277 mmol, 165 mg | OC(=O)C(F)(F)F.O1CCN(CC1)C=1OC=C(N1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1
solvent | MeOH | 1 mL | CO | CH4O
product | (2-morpholinooxazol-4-yl)(2-((pyridin-3-yloxy)methyl)piperazin-1-yl)methanone dihydrochloride | 105.5 mg, 85% | Cl.Cl.O1CCN(CC1)C=1OC=C(N1)C(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C18H23N5O4.2ClH/c24-17(16-13-27-18(21-16)22-6-8-25-9-7-22)23-5-4-20-10-14(23)12-26-15-2-1-3-19-11-15;;/h1-3,11,13-14,20H,4-10,12H2;2*1H
